US09193741B2
Synthesis of 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N -m-tolylpiperazine-1-carboxamide
This compound was prepared from 7-(piperazin-1-yl)-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-5-amine using 3-tolyl isocyanate in a yield of 42%, according to the procedure for the synthesis of example 42.

reactant | 7-(piperazin-1-yl)-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-5-amine | N1(CCNCC1)C=1C2=C(N=C(N1)N)SC(=N2)C=2C=NC=CC2 | C14H15N7S
reactant | 3-tolyl isocyanate | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
product | 4-(5-amino-2-(pyridin-3-yl)thiazolo[5,4-d]pyrimidin-7-yl)-N -m-tolylpiperazine-1-carboxamide | yield of 42% | NC=1N=C(C2=C(N1)SC(=N2)C=2C=NC=CC2)N2CCN(CC2)C(=O)NC=2C=C(C=CC2)C | C22H22N8OS
